US05366656
Preparation of para-dodecyloxy benzoic acid
4.17 g of sodium hydroxide was dissolved in 100 ml of ethyl alcohol. Then, 5.03 g of para-hydroxy benzoic acid and 12.2 ml of 1-bromododecane were added to the solution and refluxed for 15 hours. 50 ml of 10% aqueous sodium hydroxide solution was added and refluxed for another 2 hours. After cooling, concentrated HCl was dropped into the solution until it was acidic. Filtration and recrystallization from ethyl alcohol gave 7.66 g of pure product (yield 70%).

reactant | sodium hydroxide | 4.17 g | [OH-].[Na+]
reactant | para-hydroxy benzoic acid | 5.03 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | 1-bromododecane | 12.2 ml | BrCCCCCCCCCCCC | C12H25Br
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | para-dodecyloxy benzoic acid | 7.66 g, yield 70% | C(CCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C19H30O3
